US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2-methylpropyl]-4-chlorobenzamide
Benzotriazole, 4-chlorobenzamide, isobutyraldehyde, and p-toluenesulfonic acid were processed as in Example 53A to provide the desired product.

reactant | Benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 4-chlorobenzamide | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2-methylpropyl]-4-chlorobenzamide | N1(N=NC2=C1C=CC=C2)C(C(C)C)NC(C2=CC=C(C=C2)Cl)=O | C17H17ClN4O
